US06277987B1
A solution of the title C compound, 2-(benzhydrylideneamino)-6-(1,2,3,4-tetrahydro-1-methyl-2,4-dioxoquinazolin-3-yl)hexanoic acid t-butyl ester (2.15 g) in 80 mL of acetonitrile is treated with 8 mL of water and p-toluenesulfonic acid hydrate (0.800 g, 4.21 mmol), and the clear solution is stirred at 25° C. for 16 h. The solvent is evaporated under reduced pressure, and the residue is partioned between 150 mL of diethyl ether and 100 mL of 0.1N aqueous HCl. The aqueous phase is added dropwise to 1N aqueous NaOH (15 mL, 15.0 mmol) to precipitate an oily solid which is extracted into two 60 mL portions of methylene chloride. The organic extracts are combined, dried over anhydrous MgSO4, and concentrated. Chomatography on silica gel (eluant; ethyl acetate) affords 448 mg (30%) of 2-amino-6-(1-methyl-2,4-dioxo-1,4-di-hydro-2H-quinazolin-3-yl)hexanoic acid t-butyl ester as a colorless oil: NMR(CDCl3) 1.46 (s, 9H), 1.51-1.79 (m, 6H), 3.32 (dd, 1H, J=7.0, 5.4), 3.61 (s, 3H), 4.11 (t, 2H, J=7.4), 7.20 (d, 1H, J=8.3), 7.25-7.29 (m, 1H), 7.69 (td, 1H, J=8.6, 1.5), 8.23 (dd, 1H, J=7.9, 1.5); IR 1702, 1656; MS 362 (M++1).

reactant | 2-(benzhydrylideneamino)-6-(1,2,3,4-tetrahydro-1-methyl-2,4-dioxoquinazolin-3-yl)hexanoic acid t-butyl ester | 2.15 g | C(C)(C)(C)OC(C(CCCCN1C(N(C2=CC=CC=C2C1=O)C)=O)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C32H35N3O4
reactant | water | 8 mL | O | H2O
reactant | p-toluenesulfonic acid hydrate | 4.21 mmol, 0.800 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaOH | 15.0 mmol, 1N, 15 mL | [OH-].[Na+]
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 2-amino-6-(1-methyl-2,4-dioxo-1,4-di-hydro-2H-quinazolin-3-yl)hexanoic acid t-butyl ester | 448 mg, 30% | C(C)(C)(C)OC(C(CCCCN1C(N(C2=CC=CC=C2C1=O)C)=O)N)=O | C19H27N3O4
